US07528143B2
2-[4-(3-Bromo-phenyl)-piperidin-1-yl]-ethanol (Intermediate 45)
4-(3-Bromo-phenyl)-piperidine (1.2 g, 4.8 mmol) and 2-bromoethanol (0.72 mL, mmol) were diluted with DMF (20 mL) and treated with potassium carbonate (2.7 g, 20 mmol). These were stirred at ambient temperature for 18 then poured onto water and extracted with ethyl acetate. Organic phase then washed with brine, dried over sodium sulfate, filtered and evaporated to clear oil (0.6 g, 44%).

reactant | 4-(3-Bromo-phenyl)-piperidine | 4.8 mmol, 1.2 g | BrC=1C=C(C=CC1)C1CCNCC1 | C11H14BrN
reactant | 2-bromoethanol | 0.72 mL | BrCCO | C2H5BrO
reactant | potassium carbonate | 20 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[4-(3-Bromo-phenyl)-piperidin-1-yl]-ethanol | BrC=1C=C(C=CC1)C1CCN(CC1)CCO | C13H18BrNO
